US04273782
Ethyl chloroformate (0.19 g) was added dropwise to a stirred solution of 1-(2-aminoethyl)-3-(1-imidazolylmethyl)indole (0.48 g) in pyridine (5 ml) at room temperature. The solution was stirred at room temperature for 3 hours and then evaporated. The residue was stirred with aqueous sodium bicarbonate solution and the solid product was filtered off, washed with water, dried and crystallised from ethyl acetate/petrol (b.p. 60°-80° C.) to give 1-(2-methoxycarbonylaminoethyl)3-(1-imidazolylmethyl)indole (0.32 g), m.p. 78°-79° C. Found: C, 62.22; H, 5.99; N, 17.72. C16H18N4O2.1/2H2O requires: C, 62.52; H, 6.23; N, 18.23%.

reactant | Ethyl chloroformate | 0.19 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-(2-aminoethyl)-3-(1-imidazolylmethyl)indole | 0.48 g | NCCN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C14H16N4
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-methoxycarbonylaminoethyl)3-(1-imidazolylmethyl)indole | 0.32 g | COC(=O)NCCN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C16H18N4O2
